US05326905
2. 4-[4-(bromomethyl)phenoxy]carboxyglutarimide
A solution of 1.3 g (5.2 mmol) of 4-(4-methylphenoxy)carboxyglutarimide, 1.0 g (5.7 mmol) of N-bromosuccinimide and 0.02 g of benzoyl peroxide in 30 ml of carbon tetrachloride was refluxed for 16 hours, cooled to room temperature, evaporated and the residue dissolved in 200 ml of ethyl acetate. The EtOAc layer was washed with water, dried over Na2SO4 and evaporated to give 1.6 g of the crude product.

reactant | 4-(4-methylphenoxy)carboxyglutarimide | 5.2 mmol, 1.3 g | CC1=CC=C(OC2CC(C(=O)NC2=O)C(=O)O)C=C1 | C13H13NO5
reactant | N-bromosuccinimide | 5.7 mmol, 1.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.02 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-[4-(bromomethyl)phenoxy]carboxyglutarimide | 1.6 g | BrCC1=CC=C(OC2CC(C(=O)NC2=O)C(=O)O)C=C1 | C13H12BrNO5
